US04816487
4-octyloxy-2-hydroxy-laurophenone-oxime:
29.2 g (0.1 Mol) of 2,4-dihydroxylaurophenone together with 28 g (0.145 Mol) of n-octylbromide and 14 g of anhydrous potassium carbonate in 150 ml of dried acetone, as in Example 11, are converted to ketone, 56° C. to 57° C. in flash point (ethanol), and, subsequently, with hydroxylamine hydrochloride in the presence of potassium acetate in ethanolic solution, converted to oxime, between 60° C. and 63° C. in flash point (ethanol, n-heptane). The following example was obtained in the same way: 4-decyloxy-2-hydroxy-laurophenone-oxime, between 64° C. and 69° C. in flash point (n-heptane, ethanol).

reactant | 2,4-dihydroxylaurophenone | 0.1 Mol, 29.2 g | OC(C(=O)C1=CC=CC=C1)CC(CCCCCCCC)O | C18H28O3
reactant | n-octylbromide | 0.145 Mol, 28 g | C(CCCCCCC)Br | C8H17Br
reactant | potassium carbonate | 14 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | 4-decyloxy-2-hydroxy-laurophenone-oxime | C(CCCCCCCCC)OC(CC(C(C1=CC=CC=C1)=NO)O)CCCCCCCC | C28H49NO3
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | ethanol | C(C)O | C2H6O
solvent | n-heptane | CCCCCCC | C7H16
product | 4-octyloxy-2-hydroxy-laurophenone-oxime | C(CCCCCCC)OC(CC(C(C1=CC=CC=C1)=NO)O)CCCCCCCC | C26H45NO3
